US08669234B2
[2-Methyl-1-(1-{5-[4-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-phenyl]-1H-imidazol-2-yl}-cyclopropylcarbamoyl)-propyl]-carbamic acid methyl ester (85 mg, 0.21 mmol) and (1-{2-[5-(4-bromo-phenyl)-1H-imidazol-2-yl]-pyrrolidine-1-carbonyl}-2-methyl-propyl)-carbamic acid methyl ester (97 mg, 0.21 mmol) in 3:1 DME/H2O (2.5 mL) were treated with Pd(PPh3)4 (10 mg, 0.0084 mmol) and K2CO3 (2 M solution, 0.42 mL, 0.84 mmol). The mixture was stirred in a sealed tube at 80° C. for 3 hours. The mixture was filtered through a fitted glass funnel and concentrated. The mixture was subjected to a reverse phase HPLC column (5-95% MeCN—H2O; 0.1% TFA modifier) to afford (1-{2-[5-(4′-{2-[1-(2-methoxycarbonylamino-3-methyl-butyrylamino)-cyclopropyl]-3H-imidazol-4-yl}-biphenyl-4-yl)-1H-imidazol-2-yl]-pyrrolidine-1-carbonyl}-2-methyl-propyl)-carbamic acid methyl ester (2.3 mg, 2%) as a white solid (TFA salt): 1H NMR (CD3OD, 300 MHz) 7.93 (s, 2H), 7.84 (m, 4H), 5.20 (m, 1H), 4.23 (d, J=7.2 Hz, 2H), 4.01 (m, 2H), 3.83 (m, 4H), 3.70 (s, 3H), 3.66 (s, 3H), 3.38 (m, 2H), 2.57 (m, 2H), 2.18 (m, 4H), 2.04 (m, 4H), 1.75 (m, 4H), 1.58 (m, 4H), 0.95 (m, 12H); MS (ESI) m/z 725 [M+H]+.

reactant | [2-Methyl-1-(1-{5-[4-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-phenyl]-1H-imidazol-2-yl}-cyclopropylcarbamoyl)-propyl]-carbamic acid methyl ester | 0.21 mmol, 85 mg | COC(NC(C(C)C)C(NC1(CC1)C=1NC(=CN1)C1=CC=C(C=C1)B1OC(C(O1)(C)C)(C)C)=O)=O | C25H35BN4O5
reactant | (1-{2-[5-(4-bromo-phenyl)-1H-imidazol-2-yl]-pyrrolidine-1-carbonyl}-2-methyl-propyl)-carbamic acid methyl ester | 0.21 mmol, 97 mg | COC(NC(C(C)C)C(=O)N1C(CCC1)C=1NC(=CN1)C1=CC=C(C=C1)Br)=O | C20H25BrN4O3
reactant | K2CO3 | 0.84 mmol, 2 M, 0.42 mL | C(=O)([O-])[O-].[K+].[K+]
catalyst | Pd(PPh3)4 | 0.0084 mmol, 10 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | DME H2O | 2.5 mL | COCCOC.O
product | (1-{2-[5-(4′-{2-[1-(2-methoxycarbonylamino-3-methyl-butyrylamino)-cyclopropyl]-3H-imidazol-4-yl}-biphenyl-4-yl)-1H-imidazol-2-yl]-pyrrolidine-1-carbonyl}-2-methyl-propyl)-carbamic acid methyl ester | 2.3 mg, 2% | COC(NC(C(C)C)C(=O)N1C(CCC1)C=1NC(=CN1)C1=CC=C(C=C1)C1=CC=C(C=C1)C=1NC(=NC1)C1(CC1)NC(C(C(C)C)NC(=O)OC)=O)=O | C39H48N8O6
